US05190922
{1-(1-Phenylcyclopropyl)}methylamine (205 mg, 1.1 mmole) was hydrogenated using platinum-black (410 mg) in 20 mL of acetic acid under 4 atmospheres of hydrogen for 3 days. The same conditions were repeated 3 times to complete the reaction. 2-Cyclohexyl-2-methylpropylamine was isolated as an acetic acid salt in quantitative yield. This material (28.5 mg, 0.12 mmole) was coupled with Example 4 (100 mg, 0.1 mmole) by the EDC and HOBT method followed by deprotection and purification to afford pure title compound (51 mg, 47%).

reactant | {1-(1-Phenylcyclopropyl)}methylamine | 1.1 mmole, 205 mg | C1(=CC=CC=C1)C1(CC1)CN | C10H13N
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
catalyst | platinum | 410 mg | [Pt] | Pt
product | 2-Cyclohexyl-2-methylpropylamine | quantitative yield | C1(CCCCC1)C(CN)(C)C | C10H21N
